US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline
4.8 g (0.01 mole) of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-phenylimino-4-thiazoline hydrobromide are added in portions to a mixture of 5 ml (about 0.05 mole) of 40% strength aqueous dimethylamine solution and 50 ml of methanol (or ethanol), with external cooling and stirring, at a rate such that the temperature as far as possible does not rise above 35° C. The reaction mixture is stirred for 14 hours at room temperature, the solvent is distilled off under a waterpump vacuum and the residue is crystallized under 50 ml of water, stirring with a magnetic stirrer. Colorless crystals; melting point 178°-181° C.

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-phenylimino-4-thiazoline hydrobromide | 0.01 mole, 4.8 g | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)C)S(=O)(=O)Cl
reactant | dimethylamine | CNC | C2H7N
reactant | methanol | 50 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)C)S(N(C)C)(=O)=O | C18H18ClN3O2S2
